US09212187B2
Synthesis of 6-[5-(bis{pyridin-3-ylmethyl}amino)pentyloxy]-1-methyl-1H-quinolin-2-one
Pyridine-3-carbaldehyde(0.076 ml) was added to a 1,2-dichloroethane solution(3 ml) of 1-methyl-6-{5-[(pyridin-3-ylmethyl)-amino]-pentyloxy}-1H-quinolin-2-one(237 mg). The mixture was stirred for 30 minutes at room temperature. Sodium triacetoxyborohydride(0.23 g) was added to the mixture, and the mixture was stirred at room temperature for 3 days. A saturated sodium hydrogencarbonate aqueous solution was added to the reaction mixture, followed by extraction using dichloromethane. The organic layer was dried with anhydrous sodium sulfate, and condensed under reduced pressure. The residue was purified by NH silica gel column chromatography (ethyl acetate: hexane=1:1). The purified product was condensed under reduced pressure to give the title compound(247 mg) as a yellow oil.

reactant | Pyridine-3-carbaldehyde | 0.076 ml | N1=CC(=CC=C1)C=O | C6H5NO
reactant | 1-methyl-6-{5-[(pyridin-3-ylmethyl)-amino]-pentyloxy}-1H-quinolin-2-one | 237 mg | CN1C(C=CC2=CC(=CC=C12)OCCCCCNCC=1C=NC=CC1)=O | C21H25N3O2
reactant | Sodium triacetoxyborohydride | 0.23 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | 1,2-dichloroethane | 3 ml | ClCCCl | C2H4Cl2
product | 6-[5-(bis{pyridin-3-ylmethyl}amino)pentyloxy]-1-methyl-1H-quinolin-2-one | 247 mg | N1=CC(=CC=C1)CN(CCCCCOC=1C=C2C=CC(N(C2=CC1)C)=O)CC=1C=NC=CC1 | C27H30N4O2
